US04473561
To a solution of α-hydroxyethylphosphinic acid (18 g) in distilled water (30 ml) previously adjusted to pH 8 with an aqueous solution of sodium hydroxide, a solution of copper(II) (10.7 g) in distilled water (70 ml) was added, followed by stirring for 30 minutes. After elimination of water by distillation, anhydrous ethanol (300 ml) was added thereto, and stirring was continued for 30 minutes. The by-produced sodium chloride was separated by filtration. The filtrate was concentrated to give copper(II) α-hydroxyethylphosphinate (Compound No. 11) (21.45 g) as pale green crystals. M.P. ~105° C. (decomp.).

reactant | α-hydroxyethylphosphinic acid | 18 g | OC(C)P(O)=O | C2H7O3P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | copper(II) | 10.7 g | [Cu+2]
solvent | water | 30 ml | O | H2O
solvent | water | 70 ml | O | H2O
product | copper(II) α-hydroxyethylphosphinate | OC(C)P([O-])=O.[Cu+2].OC(C)P([O-])=O | InChI=1S/2C2H7O3P.Cu/c2*1-2(3)6(4)5;/h2*2-3,6H,1H3,(H,4,5);/q;;+2/p-2
